US09376441B2
The crude TFA salt of (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: 3.63 (0.06 mmol) was suspended in DCM (1 mL) and Et3N (60 μL, 0.43 mmol) was added followed by methanesulfonic anhydride (10.5 mg, 0.06 mmol). The resulting mixture was stirred 3 h and was partitioned between EtOAc, water, and brine. The phases were separated, and the aqueous phase was extracted with EtOAc. The combined organic phase was dried over Na2SO4, filtered, and concentrated. The crude product was purified by silica gel chromatography (0-20% MeOH in DCM) to afford (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(4-(methylsulfonyl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (3.65).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | FC(N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CCNCC2)O[C@H](C)[C@@H]2CC(NC2)=O)F | C23H26F2N6O2
reactant | Et3N | 0.43 mmol, 60 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 0.06 mmol, 10.5 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(4-(methylsulfonyl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | FC(N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CCN(CC2)S(=O)(=O)C)O[C@H](C)[C@@H]2CC(NC2)=O)F | C24H28F2N6O4S
